US07485739B2
17.2 1-adamantyl phosphine
LiAlH4 (3.5 g, 74 mmol) was added over 2 hours to a cooled solution (0° C.) of 1-adamantylphosphonic acid dichloride (15 g, 59 mmol) in THF (250 cm3). The reaction was then allowed to warm to ambient temperature and was stirred for 20 hours. The grey suspension was then cooled (0° C.) and HCl (75 cm3, 1M) was slowly added via syringe, to afford a two phase system with some solid present in the lower phase. Concentrated HCl (8 cm3, 11M) was then added to improve the separation of the two layers. The (upper) THF phase was removed via cannula and dried over magnesium sulphate. After filtration via cannula, the volatiles were removed in-vacuo to afford the product.

reactant | LiAlH4 | 74 mmol, 3.5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-adamantylphosphonic acid dichloride | 59 mmol, 15 g | C12(CC3CC(CC(C1)C3)C2)P(=O)(Cl)Cl | C10H15Cl2OP
reactant | HCl | 1M, 75 cm3 | Cl | ClH
reactant | HCl | 11M, 8 cm3 | Cl | ClH
solvent | THF | 250 cm3 | C1CCOC1 | C4H8O
product | 1-adamantyl phosphine | C12(CC3CC(CC(C1)C3)C2)P | C10H17P
